US05498741
Preparation of 4-methoxyphenyl phenyl-2,4,6-trimethylbenzoylphosphinate
59.5 g (0.326 mol) of 2,4,6-trimethylbenzoyl chloride and 0.75 g of triethylamine were heated to 115° C. and 45 g (0.163 mol) of monoethyl mono-4-methoxyphenyl phenylphosphonite were added dropwise in one hour under a nitrogen atmosphere and with vigorous stirring. Ethyl chloride was given off as a gas and was condensed in a downstream cold trap. The mixture was then further stirred at 110° to 115° C. for 90 minutes. In total, at the end of the reaction, 9 g (88% of theory) of ethyl chloride were situated in the cold trap. The excess 2,4,6-trimethylbenzoyl chloride was then distilled off at 1 mbar and the residue was distilled with the aid of a thin-film evaporator (bath temperature: 260° C.; 0.4 mbar). 40 g were obtained. The yield was 65% of theory.

reactant | 2,4,6-trimethylbenzoyl chloride | 0.326 mol, 59.5 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
reactant | monoethyl mono-4-methoxyphenyl phenylphosphonite | 0.163 mol, 45 g | C1(=CC=CC=C1)P(OCC)OC1=CC=C(C=C1)OC | C15H17O3P
reactant | Ethyl chloride | C(C)Cl | C2H5Cl
reactant | ethyl chloride | 9 g | C(C)Cl | C2H5Cl
solvent | triethylamine | 0.75 g | C(C)N(CC)CC | C6H15N
product | 4-methoxyphenyl phenyl-2,4,6-trimethylbenzoylphosphinate | yield was 65% | C1(=CC=CC=C1)P(OC1=CC=C(C=C1)OC)(=O)C(C1=C(C=C(C=C1C)C)C)=O | C23H23O4P
